US07858624B2
A mixture of (R)-tert-butyl 2-((R)-1-(6-fluoro-3′-methylbiphenyl-2-yl)-1-hydroxy-5-methoxypentyl)morpholine-4-carboxylate (188 mg, 0.39 mmol) and Burgess' reagent (186 mg, 0.78 mmol) in toluene (3 mL) was heated to reflux under a N2 atmosphere for 2 h, then cooled to rt and diluted with EtOAc, washed with H2O and brine, dried over Na2SO4, filtered and evaporated. The residue was purified by flash chromatography to give (S)-tert-butyl 2-(1-(6-fluoro-3′-methylbiphenyl-2-yl)-5-methoxypent-1-enyl)morpholine-4-carboxylate (133 mg, 73%). MS m/z 470 (M+H)+.

reactant | (R)-tert-butyl 2-((R)-1-(6-fluoro-3′-methylbiphenyl-2-yl)-1-hydroxy-5-methoxypentyl)morpholine-4-carboxylate | 0.39 mmol, 188 mg | FC1=CC=CC(=C1C1=CC(=CC=C1)C)[C@@](CCCCOC)(O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C28H38FNO5
reactant | Burgess' reagent | 0.78 mmol, 186 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 2-(1-(6-fluoro-3′-methylbiphenyl-2-yl)-5-methoxypent-1-enyl)morpholine-4-carboxylate | 133 mg, 73% | FC1=CC=CC(=C1C1=CC(=CC=C1)C)C(=CCCCOC)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C28H36FNO4
